US06150373
A solution of 8.04 g (67 mmol) of 4-cyanophenol in 100 ml of xylene was treated with a solution of 2.99 g (74 mmol) of sodium hydroxide in 20 ml of water and the mixture was stirred for 30 minutes. To this mixture were added 13.88 g (100 mmol) of potassium carbonate and 12.83 g (75 mmol) of 2-diethylaminoethyl chloride hydrochloride. The resulting mixture was then heated at reflux for 3 hours, subsequently left to cool, washed twice with 50 ml of water each time, dried over magnesium sulfate, filtered and evaporated to give 10.93 g (74%) of 4-(2-diethylaminoethoxy)benzonitrile as a colorless mobile liquid.

reactant | 4-cyanophenol | 67 mmol, 8.04 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | sodium hydroxide | 74 mmol, 2.99 g | [OH-].[Na+]
reactant | potassium carbonate | 100 mmol, 13.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-diethylaminoethyl chloride hydrochloride | 75 mmol, 12.83 g | Cl.C(C)N(CCCl)CC
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | 20 ml | O | H2O
product | 4-(2-diethylaminoethoxy)benzonitrile | 10.93 g, 74% | C(C)N(CCOC1=CC=C(C#N)C=C1)CC | C13H18N2O
